US09403831B2
In a pressure tube reactor, (S)-3-(1-((4-(5-bromopyrimidin-2-yl)morpholine-2-yl)methyl)-1H-[1,2,3]-triazolo[4,5-b]pyrazin-6-yl)benzonitrile 50 mg (0.10 mmol) was added, and then potassium carbonate 43 mg (0.31 mmol) was added. Pd(dppf)2Cl2 4 mg (0.005 mmol) was further added, 1,4-dioxane 2 ml and 1-(2-((tetrahydro-2H-pyran-2-yl)oxy)ethyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolane-2-yl)-1H-pyrazole 40 mg (0.13 mmol) were added, and then H2O 0.5 ml was added. The mixture was stirred at room temperature for 10 minutes under nitrogen gas, and then stirred at 80° C. for 2 hours. When the reaction was completed, the organic layer was extracted with ethyl acetate and water, and the extra water was removed by sodium sulfate, followed by concentration under reduced pressure. Column chromatography using 50% ethyl acetate/hexane gave 3-(1-(((2S)-4-(5-(1-(2-((tetrahydro-2H-pyran-2-yl)oxy)ethyl)-1H-pyrazol-4-yl)pyrimidin-2-yl)morpholine-2-yl)methyl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-6-yl)benzonitrile 48 mg (0.08 mmol) with a yield of 70%.

reactant | (S)-3-(1-((4-(5-bromopyrimidin-2-yl)morpholine-2-yl)methyl)-1H-[1,2,3]-triazolo[4,5-b]pyrazin-6-yl)benzonitrile | 0.10 mmol, 50 mg | BrC=1C=NC(=NC1)N1C[C@H](OCC1)CN1N=NC=2C1=NC(=CN2)C=2C=C(C#N)C=CC2 | C20H16BrN9O
reactant | potassium carbonate | 0.31 mmol, 43 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1,4-dioxane | 2 ml | O1CCOCC1 | C4H8O2
reactant | 1-(2-((tetrahydro-2H-pyran-2-yl)oxy)ethyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolane-2-yl)-1H-pyrazole | 0.13 mmol, 40 mg | O1C(CCCC1)OCCN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C16H27BN2O4
catalyst | Pd(dppf)2Cl2 | 0.005 mmol, 4 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | H2O | 0.5 ml | O | H2O
product | 3-(1-(((2S)-4-(5-(1-(2-((tetrahydro-2H-pyran-2-yl)oxy)ethyl)-1H-pyrazol-4-yl)pyrimidin-2-yl)morpholine-2-yl)methyl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-6-yl)benzonitrile | 0.08 mmol, 48 mg, yield of 70% | O1C(CCCC1)OCCN1N=CC(=C1)C=1C=NC(=NC1)N1C[C@H](OCC1)CN1N=NC=2C1=NC(=CN2)C=2C=C(C#N)C=CC2 | C30H31N11O3
